US04507241
To 0.30 g (2.26 mmoles) of AlCl3 in 50 mL of THF was added 2.1 mL of 2.09M EtMgCl in ether (4.40 mmoles). The aluminum reagent was added dropwise to 1.00 g (4.40 mmoles) of 2,3-DCNQ in 100 mL of THF and the mixture was stirred overnight. A homogeneous yellow solution was obtained. Then, 0.300 g (2.21 mmoles) of ZnCl2 was added and the mixture was stirred overnight. A white solid formed; the mixture was poured into 100 mL of NH4Cl solution and extracted with 3×50 mL of ether. The organic layer was dried over MgSO4, filtered and solvent was removed in vacuo. The residue was extracted with hexane, filtered and solvent was removed. The residue was chromatographed in silica gel eluted with toluene to give 0.39 g (1.77 mmole, 40%) of 2-ethyl-3-chloronaphthoquinone.

reactant | AlCl3 | 2.26 mmoles, 0.30 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtMgCl | 2.09M, 2.1 mL | C(C)[Mg]Cl
reactant | ether | 4.40 mmoles | CCOCC | C4H10O
reactant | aluminum | [Al] | Al
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 2.21 mmoles, 0.300 g | [Cl-].[Cl-].[Zn+2]
product | 2-ethyl-3-chloronaphthoquinone | 1.77 mmole, 0.39 g, 40% | C(C)C=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C12H9ClO2
